US07553842B2
Step D: Preparation of (S)-3-(4-(hydroxymethyl)phenoxy)-dihydrofuran-2(3H)-one:
A solution of 40% aqueous hydrofluoric acid in CH3CN (10 mL) was added to a 0° C. solution of (S)-3-(4-((tert-butyldimethylsilyloxy)methyl)phenoxy)-dihydrofuran-2(3H)-one in CH3CN (50 mL). The reaction was stirred for 30 minutes and then partitioned between a saturated NaHCO3 solution and diethyl ether. The organics were dried over MgSO4 and concentrated under reduced pressure. The residue was chromatographed to provide the desired product (0.92 g, 72%).

reactant | hydrofluoric acid | F | FH
reactant | (S)-3-(4-((tert-butyldimethylsilyloxy)methyl)phenoxy)-dihydrofuran-2(3H)-one | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(O[C@@H]2C(OCC2)=O)C=C1 | C17H26O4Si
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | (S)-3-(4-(hydroxymethyl)phenoxy)-dihydrofuran-2(3H)-one | 0.92 g, 72% | OCC1=CC=C(O[C@@H]2C(OCC2)=O)C=C1 | C11H12O4
